US06890942B2
4-Cyclohexanesulfonylamino-3-hydroxy-4-oxo-but-2-enoic acid (4-fluoro-benzyl)-methoxy-amide
2-(2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(4-fluoro-benzyl)-N-methoxy-acetamide was treated with cyclohexanesulfonic acid amide as described in the preparation of compound 1 to yield the title compound. LCMS (M+H) calcd for C18H24FN2O6S: 415.1; found: 415.0. 1H NMR (500 MHz, CDCl3) δ: 1.19 (overlapping m, 30,1.63 (overlapping m, 3), 1.90 (br m, 2), 2.17 (m, 2), 3.51 (m, 1), 3.69 (s, 3), 4.78 (s, 2), 6.53 (s, 1), 7.00 (m, 2), 7.26 (m, 2).

reactant | 2-(2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(4-fluoro-benzyl)-N-methoxy-acetamide | CC1(OC(C(O1)=CC(=O)N(OC)CC1=CC=C(C=C1)F)=O)C | C15H16FNO5
reactant | cyclohexanesulfonic acid amide | C1(CCCCC1)S(=O)(=O)N | C6H13NO2S
product | 4-Cyclohexanesulfonylamino-3-hydroxy-4-oxo-but-2-enoic acid (4-fluoro-benzyl)-methoxy-amide | FC1=CC=C(CN(C(C=C(C(=O)NS(=O)(=O)C2CCCCC2)O)=O)OC)C=C1 | C18H23FN2O6S
